US04206199
(1) Production of Boc-Nle-Asn-Thr-OBzl
Boc-Asn-Thr-OBzl (3.1 g) was dissolved in TFA (30 ml), and the solution was allowed to stand at room temperature for 10 minutes, and the solvent was evaporated. The residue was triturated with ether to give powders, which were dissolved in DMF (30 ml) together with TEA (1.5 ml) and to this was added Boc-Nle-ONB which was prepared from Boc-Nle-OH (1.69 g), HONB (1.50 g) and DCC (1.73 g). The mixture was stirred at room temperature for 15 hours and the solvent was evaporated. The residue was triturated with water (50 ml) to give powders, which were collected by filtration and washed with ether. Yield 3.8 g (96.7%); m.p. 160°-163° C. [α]D21.5 -13.6° (c=0.8, DMF); Rf1 0.58

reactant | Boc-Asn-Thr-OBzl | 3.1 g | N([C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C20H29N3O7
reactant | Boc-Nle-OH | 1.69 g | N([C@@H](CCCC)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | HONB | 1.50 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 1.73 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | TFA | 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Boc-Nle-Asn-Thr-OBzl | N([C@@H](CCCC)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C26H40N4O8
